2177-04-25 09:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2177-4-24**] 03:32 PM
 NON-INVASIVE VENTILATION - START [**2177-4-24**] 04:35 PM
   -          improved O2 overnight- changed to facemask for NIPPV then to
   nasal cannula by the AM
   -          appetite improved.  Awake, and speaking to family
   Allergies:
   Ampicillin
   Hives;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives; Rash; li
   Lisinopril
   Angioedema;
   Shellfish
   facial swelling
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Naloxone (Narcan) - [**2177-4-24**] 04:34 PM
   Other medications:
   Changes to medical and family history: reviewed- no new changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-4-25**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 87 (64 - 92) bpm
   BP: 152/86(104) {84/59(66) - 161/91(106)} mmHg
   RR: 24 (12 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  100 mL
   PO:
                  100 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    300 mL
                                                                    220 mL
   Urine:
                                                                    300 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -300 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: SIMV/PSV
   Vt (Set): 400 (400 - 400) mL
   PS : 15 cmH2O
   RR (Set): 30
   PEEP: 5 cmH2O
   FiO2: 35%
   SpO2: 94%
   ABG: 7.35/74/52/30/10
   Ve: 6.8 L/min
   PaO2 / FiO2: 149
   Physical Examination
   General Appearance: comfortable, on nasal cannula
   Cardiovascular: 3/6 systolic murmur at base; hyperdynamic.  RV heave
   present.
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: Present), (Left DP pulse: Present), LLE with 2+ edema
   Respiratory / Chest: (Expansion: Symmetric), Mechanical, no wheezes,
   decreased air movement. Coarse dry crackles Bilateral lung fields
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Verbal stimuli, Oriented (to): person, place,
   time, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   316 K/uL
   9.4 g/dL
   67 mg/dL
   1.3 mg/dL
   30 mEq/L
   4.1 mEq/L
   23 mg/dL
   79 mEq/L
   130 mEq/L
   28.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2177-4-24**]  04:38 PM
                             [**2177-4-25**]  04:10 AM
   WBC
   5.7
   Hct
   28.7
   Plt
   316
   Cr
   1.3
   TCO2
   43
   Glucose
   67
   Other labs: PT / PTT / INR:12.2/26.7/1.0, Ca++:9.4 mg/dL, Mg++:1.8
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   67 yo female with pulm HTN, sarcoidosis, colon cancer, and diastolic
   heart failure transferred for hypercarbic respiratory failure.
   1.  Hypercarbic Respiratory Distress: Improved. Now on nasal cannula.
     - likely secondary to high O2 saturations in the setting of chronic
   CO2 retention.
     - yesterday made DNI.  Plan for callout to floor with plan on NC and
   facemask and if needed NIPPV.
     - Avoid high O2 sat >93% in chronic CO2 retainer
     - hold on lasix for elevated creatinine today
     - as able will continue hydroxychloroquine and prednisone for
   sarcoidosis, sildenafil for pulmonary hypertension, and albuterol prn
   (on BIPAP and unable to take POs currently)
   2. Hyponatremia-  Likely SIADH.  Was not improving markedly with fluid
   restriction and trial of fluid given without improvement.  Will hold on
   further fluids and maintain fluid restriction.
   - Monitor Na
   - fluid restriction of 1.0L
   - continue demeclocycline and sodium chloride as able
   3. Anemia
   Stable
   - continue ferrous sulfate as able
   4. Hypothyroidism
   - Stable
   - continue Levothyroxine 25mcg PO daily as able
   4. Anxiety
   Stable
   - hold sedating meds
   5. Hypertension
   Stable
   - continue nifedipine and metoprolol as able
   6. Pain
   Stable- pain free now.
   # FEN: Calcium, magnesium, and potassium sliding scales
   ICU Care
   Nutrition:  Regular diet; fluid restrict 1L
   Glycemic Control:  ISS
   Lines:
   Indwelling Port (PortaCath) - [**2177-4-24**] 03:32 PM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer: ppi
   VAP:  mouth care while on mask
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: call out to floor
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with Dr.
   [**Last Name (STitle) **]
s  note above, including assessment and plan. No sig changes
   to PMH, SH, FH, ROS since admit note yesterday except these comments:
   now alert, interactive. Denies any discomfort. Good appetite. Breathing
   is comfortable.
   Resolved episode of acute respiratory distress superimposed on context
   of chronic respiratory failure with bronchiectasis/lung scarring from
   sarcoidosis, severe PAH, diastolic dysfunction.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2010**] [**Last Name (NamePattern1) **], MD
   on:[**2177-4-25**] 17:15 ------

2177-04-26 07:04:00 Physician Resident Progress Note
Chief Complaint: 67 yo female with pulm HTN, sarcoidosis, colon cancer,
   and diastolic heart failure transferred for hypercarbic respiratory
   failure.
   24 Hour Events:
   Asymptomatic desat to low 80s on 2L, called back for further
   monitoring.
   O2 supplementation increased to 3L, pt remained in mid to high 90s for
   the remainder of the day/night.
   Allergies:
   Ampicillin
   Hives;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives; Rash; li
   Lisinopril
   Angioedema;
   Shellfish
   facial swelling
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: reports sleeping well, tolerating PO, denies pain,
   no SOB.
   Flowsheet Data as of  [**2177-4-26**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 79 (64 - 87) bpm
   BP: 148/91(105) {109/59(74) - 152/91(105)} mmHg
   RR: 26 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,000 mL
                                                                    100 mL
   PO:
                                                                  1,000 mL
                                                                    100 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                    225 mL
   Urine:
                                                                  1,745 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -745 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100% 3L NC
   ABG: ///44/
   Physical Examination
   General Appearance: comfortable, on nasal cannula
   Cardiovascular: 3/6 systolic murmur at base; hyperdynamic.  RV heave
   present.
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: Present), (Left DP pulse: Present), LLE with 2+ edema
   Respiratory / Chest: (Expansion: Symmetric), Mechanical, no wheezes,
   decreased air movement. Coarse dry crackles Bilateral lung fields. End
   expiratory squeak.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Verbal stimuli, Oriented (to): person, place,
   time, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   365 K/uL
   10.0 g/dL
   149 mg/dL
   1.0 mg/dL
   44 mEq/L
   3.7 mEq/L
   20 mg/dL
   84 mEq/L
   133 mEq/L
   31.2 %
   9.7 K/uL
        [image002.jpg]
                             [**2177-4-24**]  04:38 PM
                             [**2177-4-25**]  04:10 AM
                             [**2177-4-26**]  04:57 AM
   WBC
   5.7
   9.7
   Hct
   28.7
   31.2
   Plt
   316
   365
   Cr
   1.3
   1.0
   TCO2
   43
   Glucose
   67
   149
   Other labs: PT / PTT / INR:12.2/26.7/1.0, Ca++:8.8 mg/dL, Mg++:1.4
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   67 yo female with pulm HTN, sarcoidosis, colon cancer, and diastolic
   heart failure transferred for hypercarbic respiratory failure.
   #.  Hypercarbic Respiratory Distress: Improved. Now on nasal cannula.
     - likely secondary to high O2 saturations in the setting of chronic
   CO2 retention.
     - on transfer  made DNI.  Plan for callout to floor with plan on NC
   and facemask and if needed NIPPV.
     - Avoid high O2 sat >93% in chronic CO2 retainer
     - as able will continue hydroxychloroquine and prednisone for
   sarcoidosis, sildenafil for pulmonary hypertension, and albuterol prn.
   -Should continue NIPPV at night regardless of sat/settings.
   #. Hyponatremia-  Likely SIADH.  Was not improving markedly with fluid
   restriction and trial of fluid given without improvement.  Will hold on
   further fluids and maintain fluid restriction.  Interval improvement in
   Na
   - Monitor Na
   - fluid restriction of 1.0L
   - continue demeclocycline and sodium chloride as able
   #. Anemia
   Stable
   - continue ferrous sulfate as able
   #. Hypothyroidism
   - Stable
   - continue Levothyroxine 25mcg PO daily as able
   #. Anxiety
   Stable
   - hold sedating meds due to altered mental status with hypercarbia
   #. Hypertension
   Stable
   - continue nifedipine and metoprolol as able
   #. Pain
   Stable- pain free now.
   # FEN: Calcium, magnesium, and potassium sliding scales
   ICU Care
   Nutrition:  Regular diet; fluid restrict 1L
   Glycemic Control:  ISS
   Lines:
   Indwelling Port (PortaCath) - [**2177-4-24**] 03:32 PM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer: ppi
   VAP:  mouth care while on mask
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: call out to floor today with understanding that NIPPV
   should be continued at night on current settings.

2177-04-26 09:41:00 Physician Attending Progress Note
Chief Complaint: hypercarbic resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   transient desat to 80% yesterday during rounds
 resolved
   Did not get BIPAP overnight
 feels well this AM
   Allergies:
   Ampicillin
   Hives;
   Penicillins
   Hives;
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Hives; Rash; li
   Lisinopril
   Angioedema;
   Shellfish
   facial swelling
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   gabapentin, tylenol, sv heparin, sildenafil, lopressor, PPI, prenisone
   10 qd, nifedipine, iron, plaquenil,democycline
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea improved
   Flowsheet Data as of  [**2177-4-26**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 72 (64 - 83) bpm
   BP: 134/72(89) {109/59(74) - 166/92(109)} mmHg
   RR: 24 (16 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,000 mL
                                                                    100 mL
   PO:
                                                                  1,000 mL
                                                                    100 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,745 mL
                                                                    225 mL
   Urine:
                                                                  1,745 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -745 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///44/
   Physical Examination
   Gen: alert, lying in bed, NAD
   CV: RR, loud S2
   Chest: biilat crackles upper lung field right greater than left
   Abd: soft distended NT +BS
   Ext: 1+ edema
   Neuron: conversant
   Labs / Radiology
   10.0 g/dL
   365 K/uL
   149 mg/dL
   1.0 mg/dL
   44 mEq/L
   3.7 mEq/L
   20 mg/dL
   84 mEq/L
   133 mEq/L
   31.2 %
   9.7 K/uL
        [image002.jpg]
                             [**2177-4-24**]  04:38 PM
                             [**2177-4-25**]  04:10 AM
                             [**2177-4-26**]  04:57 AM
   WBC
   5.7
   9.7
   Hct
   28.7
   31.2
   Plt
   316
   365
   Cr
   1.3
   1.0
   TCO2
   43
   Glucose
   67
   149
   Other labs: PT / PTT / INR:12.2/26.7/1.0, Ca++:8.8 mg/dL, Mg++:1.4
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   67 yo female with pulm HTN, sarcoidosis, colon cancer, and diastolic
   heart failure transferred for hypercarbic respiratory failure.
   1.  Hypercarbic Respiratory Distress: Improved. Now back on nasal
   cannula.
     - likely secondary to high O2 saturations in the setting of chronic
   CO2 retention, and underlying severe ILD and pHTN due to sarcoidosis
     - yesterday made DNI.  Plan for callout to floor with plan on NC and
   facemask and if needed NIPPV.
     - Avoid high O2 sat >93% in chronic CO2 retainer
     - continue hydroxychloroquine and prednisone for sarcoidosis,
   sildenafil for pulmonary hypertension, and albuterol prn
   2. Hyponatremia-  Likely SIADH.  Maintain fluid restriction.
   - Monitor Na- continue demeclocycline and sodium chloride as able
   4. Anxiety
 reasonably controlled- hold sedating meds
   5. Hypertension - continue nifedipine and metoprolol as able
   ICU Care
   Nutrition: [**Doctor First Name 470**]
   Glycemic Control:  FS
   Lines:  Indwelling Port (PortaCath) - [**2177-4-24**] 03:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor with plan for nocturnal NIPPV and prn
   Total time spent: 35 minutes

2177-04-26 09:43:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: